US09233983B2
Step-I: 4-chloro-1-(p-tolylsulfonyl)-2-(1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[2,3-b]pyridine (R-1-I)
Trifluoroacetic acid (5 mL) was added to a solution of P-5-I (2.4 g) in CH2Cl2 (20 mL) at 0° C. and the reaction mixture was stirred at room temperature for 3 h. After completion of the reaction, solvents were removed under reduced pressure and saturated NaHCO3 (60 mL) solution was added to the residue. Extraction was carried out using EtOAc (50 mL×3); the combined organic layers were washed with water (100 mL); brine (100 mL); dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue obtained (1.9 g, quantitative) was used without any purification. LCMS: m/z; 388.2 (M+1)+.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-[4-chloro-1-(p-tolylsulfonyl)pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | 2.4 g | ClC1=C2C(=NC=C1)N(C(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C24H26ClN3O4S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-1-(p-tolylsulfonyl)-2-(1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[2,3-b]pyridine | ClC1=C2C(=NC=C1)N(C(=C2)C=2CCNCC2)S(=O)(=O)C2=CC=C(C=C2)C | C19H18ClN3O2S
